US07312214B2
6-{4-[1,1-Dimethyl-2-(2-oxo-pyrrolidin-1-yl)-ethyl]-phenyl}-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carbonitrile
To 1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carbonitrile (0.149 g, 0.55 mmol), 1-[2-(4-iodo-phenyl)-2-methyl-propyl]-pyrrolidin-2-one (0.19 g, 0.55 mmol), and K2CO3 (0.23 g, 1.7 mmol) was added degassed DMSO (4 mL) followed by CuI (21 mg, 0.11 mmol). The mixture was heated to 130° C. for 5 h. The reaction was cooled, partitioned between ethyl acetate and water, extracted with ethyl acetate, and dried (MgSO4). Chromatography on silica gel using 0–5% MeOH in CH2Cl2 followed by further purification by HPLC afforded the title

reactant | 1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carbonitrile | 0.55 mmol, 0.149 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(NCC2)=O)C#N | C14H12N4O2
reactant | 1-[2-(4-iodo-phenyl)-2-methyl-propyl]-pyrrolidin-2-one | 0.55 mmol, 0.19 g | IC1=CC=C(C=C1)C(CN1C(CCC1)=O)(C)C | C14H18INO
reactant | K2CO3 | 1.7 mmol, 0.23 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuI | 0.11 mmol, 21 mg | [Cu]I
product | 6-{4-[1,1-Dimethyl-2-(2-oxo-pyrrolidin-1-yl)-ethyl]-phenyl}-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carbonitrile | CC(CN1C(CCC1)=O)(C)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C#N)=O | C28H29N5O3
